US05223523
Preparation of 3'-(Phenylamino)-2'-thioxo-spiro(9H-fluorene-9,5'-oxazolidin)-4'-one
A solution of 9-hydroxy-9-fluorenecarboxylic acid, methyl ester (8.91 g, 0.0371 mole) in tetrahydrofuran (89 ml) was treated with potassium tert.-butoxide (4.16 g, 0.0371 mole). After 6 minutes the solution was cooled in an ice bath and carbon disulfide (2.3 ml, 0.038 mole) was added. After 7 minutes ethyl chloroformate (3.6 ml, 0.038 mole) was added to the cold solution. After 7 minutes 97% phenylhydrazine (3.9 ml, 0.038 mole) was added. After 3 minutes, the mixture was evaporated under reduced pressure to a yellow syrup. The syrup was treated with 1-chlorobutane and water, and the organic layer was washed with saturated sodium bicarbonate solution, water, 1N HCl, and water. The dried (magnesium sulfate) solution was filtered and evaporated under reduced pressure to an oil. The oil was crystallized from carbon tetrachloride/hexane, and the solid product further purified by boiling with isopropanol (without dissolution of all solid), cooling, and filtering. The product was obtained as 3.56 g (27% of theoretical) of analytically-pure white solid, m.p. 187°-189° C.

reactant | 9-hydroxy-9-fluorenecarboxylic acid, methyl ester | 0.0371 mole, 8.91 g | OC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC | C15H12O3
reactant | potassium tert.-butoxide | 0.0371 mole, 4.16 g | CC(C)([O-])C.[K+]
reactant | carbon disulfide | 0.038 mole, 2.3 ml | C(=S)=S | CS2
reactant | ethyl chloroformate | 0.038 mole, 3.6 ml | ClC(=O)OCC | C3H5ClO2
reactant | phenylhydrazine | 0.038 mole, 3.9 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | tetrahydrofuran | 89 ml | O1CCCC1 | C4H8O
product | 3'-(Phenylamino)-2'-thioxo-spiro(9H-fluorene-9,5'-oxazolidin)-4'-one | C1(=CC=CC=C1)NN1C(OC2(C1=O)C1=CC=CC=C1C=1C=CC=CC12)=S | C21H14N2O2S
